data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1221,1330,[CH3:13][O:14][C:15](=[O:16])[C:17]#[N+:18][C-:19]([C:20]([CH3:21])=[O:22])[C:23]([CH3:24])=[O:25].[F:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:17]([C:15]([O:14][CH3:13])=[O:16])=[N:18][C:19]3([C:20]([CH3:21])=[O:22])[C:23]([CH3:24])=[O:25],water,298.15,13.740502045285613,-51.18598042465874
4986,5673,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[CH:15]=[N+:16]([CH3:17])[C-:18]([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:18]([C:19]([CH3:20])=[O:21])([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[N:16]([CH3:17])[CH:15]2[C:13]([O:12][CH3:11])=[O:14],water,298.15,31.07093623579445,-7.62960601662656
3158,3561,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8](=[O:9])[N-:10][NH+:11]=[C:12]([C:13]#[N:14])[C:15]#[N:16]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:12]([C:13]#[N:14])([C:15]#[N:16])[NH:11][N:10]1[C:8]([CH3:7])=[O:9],water,298.15,28.45167599984766,-4.440864264167437
2342,2600,[Br:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2.[CH3:15][NH:16][C:17](=[O:18])[C:19](=[O+:20][N-:21][C:22]([CH3:23])=[O:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1>>[Br:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[C:19]([C:17]([NH:16][CH3:15])=[O:18])([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[O:20][N:21]2[C:22]([CH3:23])=[O:24],water,298.15,16.216553493322547,-35.96187770552443
167,184,[CH3:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[NH+:18][O-:19].[N:1]#[C:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[N:1]#[C:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[O:19][NH:18][C:15]3([C:13]([CH3:12])=[O:14])[C:16]#[N:17],water,298.15,27.58466459259353,-12.828893021291483
855,925,[CH3:12][N-:13][N+:14]([CH3:15])=[C:16]([C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[F:1][C:2]([F:3])=[C:4]([F:5])[c:6]1[cH:7][cH:8][cH:9][cH:10][cH:11]1>>[F:1][C:2]1([F:3])[C:4]([F:5])([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[N:13]([CH3:12])[N:14]([CH3:15])[C:16]1([C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,23.86540213858482,-21.49774813437542
316,345,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([C:15]#[N:16])[O+:17]=[CH:18][C:19]#[N:20].[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][C:7]([CH3:8])=[O:9]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15]#[N:16])[O:17][CH:18]1[C:19]#[N:20],water,298.15,5.730813471487026,-62.286425696670726
2258,2503,[CH3:15][NH:16][C:17](=[O:18])[C-:19]([O+:20]=[C:21]([C:22](=[O:23])[O:24][CH3:25])[C:26](=[O:27])[O:28][CH3:29])[C:30]([CH3:31])=[O:32].[F:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[F:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:19]([C:17]([NH:16][CH3:15])=[O:18])([C:30]([CH3:31])=[O:32])[O:20][C:21]2([C:22](=[O:23])[O:24][CH3:25])[C:26](=[O:27])[O:28][CH3:29],water,298.15,12.606475732749647,-37.89114546624107
2895,3217,[CH2:1]=[CH2:2].[CH:3]#[N+:4][N-:5][CH3:6]>>[CH2:1]1[CH2:2][N:5]([CH3:6])[N:4]=[CH:3]1,water,298.15,16.247335448031468,-47.78084820084944
4644,5297,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[nH+:15][c:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[o:23][c:24]1=[O:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:16]2([c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[NH:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:24](=[O:25])[O:23]2,water,298.15,23.49949373229813,7.216269390506206
2678,2976,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]#[C:9][C:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[CH2:23][CH2:24][CH2:25][CH2:26]1.[CH3:27][O:28][C:29](=[O:30])[C-:31]([C:32]#[N:33])[N+:34]#[C:35][C:36]([CH3:37])=[O:38]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]2=[C:9]([C:10]([c:11]3[cH:12][cH:13][cH:14][cH:15][cH:16]3)([c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[CH2:23][CH2:24][CH2:25][CH2:26]1)[C:35]([C:36]([CH3:37])=[O:38])=[N:34][C:31]2([C:29]([O:28][CH3:27])=[O:30])[C:32]#[N:33],water,298.15,17.530359733604442,-48.0574778045603
3222,3638,[CH3:10][C:11]([CH3:12])=[O+:13][N-:14][C:15]#[N:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:11]([CH3:10])([CH3:12])[O:13][N:14]1[C:15]#[N:16],water,298.15,19.869669966319748,-12.079619862148787
